US07307084B2
35. 2,3-Dimethyl-8-phenyl-3,6,7,8-tetrahydro-chromeno[7,8-d]imidazole-5-carboxylic Acid Cyclopropylamide
To a suspension of 0.5 g (1.5 mmol) 2,3-dimethyl-8-phenyl-3,6,7,8-tetrahydro-chromeno[7,8-d]imidazole-5-carboxylic acid in dichloromethane (15 ml) were added 0.75 g (2.3 mmol) O-(1H-benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate (TBTU) and the suspension was stirred overnight at room temperature. 430 μl (6.2 mmol) Cyclopropylamine were added and the mixture was stirred at room temperature for 1 h. The reaction mixture was poured into water (30 ml) and extracted with dichloro-methane (3×20 ml). The organic layers were dried over magnesium sulphate and concentrated in vacuo. The residue was crystallized from ethanol to afford 345 mg (62%) of the title compound as a white solid.

reactant | 2,3-dimethyl-8-phenyl-3,6,7,8-tetrahydro-chromeno[7,8-d]imidazole-5-carboxylic acid | 1.5 mmol, 0.5 g | CC1=NC2=C(N1C)C=C(C=1CCC(OC12)C1=CC=CC=C1)C(=O)O | C19H18N2O3
reactant | O-(1H-benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 2.3 mmol, 0.75 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | Cyclopropylamine | 6.2 mmol, 430 μl | C1(CC1)N | C3H7N
reactant | water | 30 ml | O | H2O
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 2,3-Dimethyl-8-phenyl-3,6,7,8-tetrahydro-chromeno[7,8-d]imidazole-5-carboxylic Acid Cyclopropylamide | 345 mg, 62% | C1(CC1)NC(=O)C=1C=2CCC(OC2C2=C(N(C(=N2)C)C)C1)C1=CC=CC=C1 | C22H23N3O2
